US06316438B1
3-Ethyl-7,8-dihydro-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazine-6,9-dione
To a suspension of 9-amino-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6(7H)-one (5.0 g, 21.7 mmol) and sodium nitrite (15.0 g, 10 eq) in water (200 mL) was added concentrated sulfuric acid until the pH was <2. The suspension was stirred vigorously and some nitric oxide—nitrogen dioxide was evolved. This suspension was then placed on a hot plate and heated to boiling. The pH of the reaction was maintained at pH>2 with the addition of sulfuric acid as necessary. When the reaction was judged complete by HPLC, the resulting reaction mixture was cooled to rt. The precipitated white solid was collected by filtration, washed with water thoroughly and dried under vacuum to afford the title compound as an off white solid (4.6 g, 92%, purity >95% as judged by HPLC).

reactant | 9-amino-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6(7H)-one | 21.7 mmol, 5.0 g | NC=1C2=C(C(NN1)=O)C=NC1=C2C=NN1CC | C10H10N6O
reactant | sodium nitrite | 15.0 g, 10 eq | N(=O)[O-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric oxide nitrogen dioxide | [N]=O.[N+](=O)[O-]
solvent | water | 200 mL | O | H2O
product | 3-Ethyl-7,8-dihydro-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazine-6,9-dione | C(C)N1N=CC2=C1N=CC=1C(NNC(C12)=O)=O | C10H9N5O2
